US04539324
4-(Methyloxycarbonyl)benzyl methylthiomethyl ether was prepared by the reaction of chloromethyl methyl sulphide with the sodium salt of methyl 4-hydroxymethylbenzoate (see G. D. Brindell, L. D. Lillwitz, J. P. Wuskell and A. P. Dunlop, Ind. Eng. Chem. Prod. Res. Dev. 15, 83(1976) in dimethoxyethane in the presence of sodium iodide as described for analogous reactions in E. J. Corey and M. C. Bock, Tetrahedron Letters 38 3269 (1975); yield 75%, b.p. 110°-120° C./0.01 mmHg. 1H NMR (CDCl3): δ2.17 (SMe) 3.92 (OMe), 4.67 (CH2), 4.70 (CH2), 7.2-8.2 (Ph).

reactant | chloromethyl methyl sulphide | CSCCl | C2H5ClS
reactant | sodium | [Na] | Na
reactant | methyl 4-hydroxymethylbenzoate | OCC1=CC=C(C(=O)OC)C=C1 | C9H10O3
reactant | sodium iodide | [I-].[Na+]
solvent | dimethoxyethane | C(OC)COC | C4H10O2
product | 4-(Methyloxycarbonyl)benzyl methylthiomethyl ether | yield 75% | CSCOCC1=CC=C(C=C1)C(=O)OC | C11H14O3S
